US08013156B2
4-(tert-Butoxycarbonylaminomethyl)piperidine (3.96 g, 18.4 mmol) was dissolved in DMF (3.5 ml) and heated to 100° C. 3,4-Dichloro-1,2,5-thiadiazole (0.85 mL, 9.0 mmol) was added and the mixture stirred at 100° C. overnight. DIEA (2.0 ml, 11.5 mmol) was added and heating at 100° C. continued until the reaction was complete (˜3 h). The reaction mixture was diluted with 1N HCl and extracted with EtOAc (3×). The combined EtOAc extractions were washed with H2O (1×), sat'd NaCl (1×), dried (MgSO4), and concentrated in vacuo to give 2.39 g (80%) of [1-(4-chloro-[1,2,5]thiadiazol-3-yl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester as a tan solid. 1H NMR (DMSO-d6) 6.91 (t, 1H), 3.87 (m, 2H), 2.84 (m, 4H), 1.69 (m, 2H), 1.56 (m, 1H), 1.36 (s, 9H), 1.24 (m, 2H) ppm. LC-MS (MH+)=333.

reactant | 4-(tert-Butoxycarbonylaminomethyl)piperidine | 18.4 mmol, 3.96 g | C(C)(C)(C)OC(=O)NCC1CCNCC1 | C11H22N2O2
reactant | 3,4-Dichloro-1,2,5-thiadiazole | 9.0 mmol, 0.85 mL | ClC1=NSN=C1Cl | C2Cl2N2S
reactant | DIEA | 11.5 mmol, 2.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | HCl | 1N | Cl | ClH
product | [1-(4-chloro-[1,2,5]thiadiazol-3-yl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester | 2.39 g, 80% | C(C)(C)(C)OC(NCC1CCN(CC1)C1=NSN=C1Cl)=O | C13H21ClN4O2S
